US05792764
3-Hydrazino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide
3-Methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate (1.0 g) was added to hydrazine hydrate (0.8 ml) and the mixture was heated to 70° C. for 30 min. After cooling, the reaction mixture was supplemented with methanol (10 ml) and the solvents were removed by distillation under reduced pressure. The residue was dissolved in NaOH 2M (20 ml), treated with charcoal, filtered, and the filtrate was adjusted to pH 6-7 with HCl 1M. The precipitate so obtained was collected by filtration, washed with water an dried (yield: 0.8 g); m.p. 290°-292° C. (Compound 1).

reactant | 3-Methylsulfanyl-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide monohydrate | 1.0 g | O.CSC1=NS(C2=C(N1)C=CN=C2)(=O)=O
reactant | hydrazine hydrate | 0.8 ml | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | 3-Hydrazino-4H-pyrido[4,3-e]-1,2,4-thiadiazine 1,1-dioxide | N(N)C1=NS(C2=C(N1)C=CN=C2)(=O)=O | C6H7N5O2S
